US09023854B2
1.3 3-Amino-5-chloro-1-(2,4-dimethoxyphenylsulfonyl)-3-(2-ethoxypyridin-3-yl)-1,3-dihydroindol-2-one
3.2 g (79 mmol) of sodium hydride (60% dispersion in mineral oil) were added in portions to a solution of 20 g (66 mmol) of 3-amino-5-chloro-3-(2-ethoxypyridin-3-yl)-1,3-dihydroindol-2-one in 50 ml of anhydrous dimethylformamide under a nitrogen atmosphere and while cooling in an ice bath. The mixture was stirred at 0° C. for 10 min and then 18.7 g (79 mmol) of 2,4-dimethoxybenzenesulfonyl chloride were added, and the mixture was stirred at room temperature for 30 min. The reaction mixture was poured into ice-water and then extracted with ethyl acetate. The organic phase was washed with saturated sodium chloride solution and dried over magnesium sulfate, and the solvent was evaporated. The residue was purified by chromatography on silica gel (120 g Redisep cartridge, mobile phase gradient from 2 to 25% dichloromethane in ethyl acetate). 34 g of the title compound were obtained as a white solid.

reactant | sodium hydride | 79 mmol, 3.2 g | [H-].[Na+]
reactant | 3-amino-5-chloro-3-(2-ethoxypyridin-3-yl)-1,3-dihydroindol-2-one | 66 mmol, 20 g | NC1(C(NC2=CC=C(C=C12)Cl)=O)C=1C(=NC=CC1)OCC | C15H14ClN3O2
reactant | 2,4-dimethoxybenzenesulfonyl chloride | 79 mmol, 18.7 g | COC1=C(C=CC(=C1)OC)S(=O)(=O)Cl | C8H9ClO4S
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-Amino-5-chloro-1-(2,4-dimethoxyphenylsulfonyl)-3-(2-ethoxypyridin-3-yl)-1,3-dihydroindol-2-one | 34 g | NC1(C(N(C2=CC=C(C=C12)Cl)S(=O)(=O)C1=C(C=C(C=C1)OC)OC)=O)C=1C(=NC=CC1)OCC | C23H22ClN3O6S
